*******************************************************************************
*****************************************************************
* NXP BUK7Y12_55B
*
* Polarity N-Channel
* Ratings 55V/1.20E-02OHMS/20A
*
* Date Created Mon Feb  8 22:32:52 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y12_55B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 1100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00468806443444482 TC=0.00972333325921838,-2.09089239424651e-05
RBD 9 4 0.000991501847625226 TC=0.00972333325921838,-2.09089239424651e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.3176125e-09
RG 1 2 1.23060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	
+ -20	
+ -10	1632
+ -5	1611
+ -2	1262
+ -1	1021
+ -0.5	901
+ -0.2	831
+ -0.1	806
+ 0	781
+ 0.1	749
+ 0.2	716
+ 0.5	608
+ 1	455
+ 2	340
+ 5	238
+ 10	184
+ 20	148
+ 25	146



.MODEL MINT NMOS(Vto=4.08691527152801 Kp=5.5250e+01 Nfs=1330000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=61.60 Ibv=2.50E-04 Rs=1E-6 Is=7.75484065483423e-13
+ N=1 M=0.51 VJ=0.76 Fc=0.5 Cjo=1.175e-09 Tt=2.25e-08)

.ENDS

*******************************************************************************
